US06432993B1
(37-2) 5-{4-[6-(4-Benzylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-benzylphenoxy)phenyl}-N-methylcarbamate (0.91 g) and 4N hydrogen chloride/dioxane (10 ml) was allowed to stand at ambient temperature for 3 days. The solvent of the reaction mixture was evaporated to dryness. To the residue was added ethyl acetate and insoluble product was isolated by filtration and washed with ethyl acetate to give the title compound (0.69 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-benzylphenoxy)phenyl}-N-methylcarbamate | 0.91 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)CC2=CC=CC=C2)N(C(OC(C)(C)C)=O)C)C=C1 | C37H37N3O7S
reactant | hydrogen chloride dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 5-{4-[6-(4-Benzylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.69 g | Cl.C(C1=CC=CC=C1)C1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | InChI=1S/C32H27N3O4S.ClH/c1-35-28-19-26(39-25-13-9-22(10-14-25)17-21-5-3-2-4-6-21)15-16-27(28)33-30(35)20-38-24-11-7-23(8-12-24)18-29-31(36)34-32(37)40-29;/h2-16,19,29H,17-18,20H2,1H3,(H,34,36,37);1H
